US07723381B2
1.2 tert-butyl 4-(1-allyloxycarbonylaminocyclopropyl)benzoate (Intermediate C)
3 g of tert-butyl 4-(1-aminocyclopropyl)benzoate was placed in 30 mL of dichloromethane and 1.8 mL of pyridine. The solution was cooled to 0° C. and 1.2 mL of allyl chloroformate (dissolved in 5 mL of dichloromethane) was added dropwise at 0° C.-5° C. The mixture was left to react for 30 minutes at 0° C. and 2 hours at RT. The solution was combined with silica gel and evaporated down to the residue. This was chromatographed with dichloromethane on silica gel 70. Yield: 1.46 g of oil.

reactant | tert-butyl 4-(1-aminocyclopropyl)benzoate | 3 g | NC1(CC1)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C14H19NO2
reactant | allyl chloroformate | 1.2 mL | ClC(=O)OCC=C | C4H5ClO2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | pyridine | 1.8 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl 4-(1-allyloxycarbonylaminocyclopropyl)benzoate | C(C=C)OC(=O)NC1(CC1)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C18H23NO4
